US05278181
Methyl (±)-[5-[Amino(4Fluorophenyl)Methyl]-1H-Benzimidazol-2-yl]Carbamate Dihydrochloride Salt
Methyl (±)-[5-[amino(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]carbamate (209 g, 0.67 mole) was suspended in 2.4 L of MeOH containing (1.5 m HCl) of 12N aq HCl and stirred at room temperature for 24 hours and then at 5° C. for 18 hours. The solid was collected by filtration. The salt was recrystallized by suspending the solid in MeOH (3 L) and adding water (250 mL) until a solution was obtained. The solution was filtered through a Celite pad and evaporated to dryness. The solid was again suspended in MeOH then collected by filtration yield: 175 g (66%) of the title dihydrochloride, mp.>315° C.

reactant | Methyl (±)-[5-[amino(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]carbamate | 0.67 mole, 209 g | NC(C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)C1=CC=C(C=C1)F | C16H15FN4O2
reactant | HCl | 12N | Cl | ClH
solvent | MeOH | 2.4 L | CO | CH4O
product | Methyl (±)-[5-[Amino(4Fluorophenyl)Methyl]-1H-Benzimidazol-2-yl]Carbamate Dihydrochloride Salt | Cl.Cl.NC(C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)C1=CC=C(C=C1)F | InChI=1S/C16H15FN4O2.2ClH/c1-23-16(22)21-15-19-12-7-4-10(8-13(12)20-15)14(18)9-2-5-11(17)6-3-9;;/h2-8,14H,18H2,1H3,(H2,19,20,21,22);2*1H
